US06316482B1
To a mixture of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (140 mg) and sodium carbonate (14 mg) in ethyl acetate (1.5 ml) was added dropwise a solution of 1,1-dichloro-1,1-diphenoxymethane (67 mg) in ethyl acetate (1 ml) in water bath and the mixture was stirred at same temperature for 5 hours. The reaction mixture was evaporated in vacuo and dissolved in chloroform. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) to give 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-(2-phenoxy-1H-benzimidazol-4-yl)carbonylaminobenzamide (18 mg).

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 140 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | sodium carbonate | 14 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,1-dichloro-1,1-diphenoxymethane | 67 mg | ClC(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C13H10Cl2O2
solvent | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]-4-(2-phenoxy-1H-benzimidazol-4-yl)carbonylaminobenzamide | 18 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)OC2=CC=CC=C2 | C41H46N6O6
